US09402838B2
Synthesis of 2-(4-fluorophenoxy)acetaldehyde
Dissolve 1-(2,2-dimethoxyethoxy)-4-fluorobenzene (1.00 g, 4.99 mmol) in chloroform (5.0 mL) and treat the mixture with trifluoroacetic acid (0.755 mL, 9.99 mmol). Stir the mixture at room temperature for two days, then heat to 65° C. and stir for 4 h. Concentrate the mixture under reduced pressure to furnish the title compound as a colorless oil in ca. 70% purity, as indicated by 1H NMR analysis (550 mg, 71% uncorrected yield). 1H NMR (400 MHz, CDCl3): δ 9.85 (t, J=0.5 Hz, 1H), 7.00 (dd, J=8.9, 8.5 Hz, 2H), 6.85 (dd, J=9.5, 4.3 Hz, 2H), 4.55 (br s, 2H).

reactant | 1-(2,2-dimethoxyethoxy)-4-fluorobenzene | 4.99 mmol, 1.00 g | COC(COC1=CC=C(C=C1)F)OC | C10H13FO3
reactant | trifluoroacetic acid | 9.99 mmol, 0.755 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | chloroform | 5.0 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-fluorophenoxy)acetaldehyde | FC1=CC=C(OCC=O)C=C1 | C8H7FO2
